### PR TITLE
feat: order isomorphisms preserve successor/predecessor limits

### PR DESCRIPTION
**Pull request by vihdzp**
Co-authored-by: Aaron Liu <aaronliu2008@outlook.com>

---
 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/SuccPred/Limit.lean [hunk 1]
```diff
@@ -105,6 +105,21 @@ theorem IsSuccLimit.ne_bot [OrderBot α] (h : IsSuccLimit a) : a ≠ ⊥ := by
 theorem not_isSuccLimit_iff : ¬ IsSuccLimit a ↔ IsMin a ∨ ¬ IsSuccPrelimit a := by
   rw [IsSuccLimit, not_and_or, not_not]
 
+@[simp]
+theorem _root_.OrderIso.isSuccPrelimit_apply [Preorder β] (e : α ≃o β) :
+    IsSuccPrelimit (e a) ↔ IsSuccPrelimit a := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Limit.lean]:
```suggestion
theorem isSuccPrelimit_map_iff [Preorder β] [EquivLike E α β] [OrderIsoClass E α β] (e : α ≃o β) :
    IsSuccPrelimit (e a) ↔ IsSuccPrelimit a := by
```
